US06992067B2
4-(4-Bromophenyl)-3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)azetidin-2-one (48)
3.34 g of 3-[2-[(4-bromophenyl)-(4-fluorophenylamino)methyl]-5-(tert-butyl-dimethylsilanyloxy)-5-(4-fluorophenyl)pentanoyl]-4-phenyloxazolidin-2-one are suspended in 70 ml of tert-butyl methyl ether. 3.8 ml of bis(trimethylsilyl)acetamide and 144 mg of tributylammonium fluoride trihydrate are then added. The reaction mixture is stirred at room temperature overnight, and 0.7 ml of glacial acetic acid are then added. The reaction mixture is concentrated using a rotary evaporator and the residue is purified by column chromatography (SiO2; ethyl acetate/heptane 1:4). The product is obtained as a clear oil. C30H34BrF2NO2Si (586) MS (ESI): M+−131

reactant | 3-[2-[(4-bromophenyl)-(4-fluorophenylamino)methyl]-5-(tert-butyl-dimethylsilanyloxy)-5-(4-fluorophenyl)pentanoyl]-4-phenyloxazolidin-2-one | 3.34 g | BrC1=CC=C(C=C1)C(C(C(=O)N1C(OCC1C1=CC=CC=C1)=O)CCC(C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)NC1=CC=C(C=C1)F | C39H43BrF2N2O4Si
reactant | bis(trimethylsilyl)acetamide | 3.8 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | tributylammonium fluoride trihydrate | 144 mg | O.O.O.[F-].C(CCC)[NH+](CCCC)CCCC
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | tert-butyl methyl ether | 70 ml | COC(C)(C)C | C5H12O
product | 4-(4-Bromophenyl)-3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)azetidin-2-one | BrC1=CC=C(C=C1)C1C(C(N1C1=CC=C(C=C1)F)=O)CCC(C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C | C30H34BrF2NO2Si
